US09255090B2
Synthesis of 5-cyano-8-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (C18H16N203, MW=308.12)
To a solution of 5-bromo-8-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (123 mg, 0.31 mmol, 1.0 eq.) in DMAC (0.62 mL), zinc cyanide (18 mg, 0.16 mmol, 0.5 eq.), tris(dibenzylideneacetone)dipalladium(0) (6.2 mg, 7 μmol, 0.02 eq.), 1,1′-bis-(diphenylphosphino)-ferrocene (4.7 mg, 8 μmol, 0.03 eq.) and poly(methylhydrosiloxane) (6 μL) were added. The resulting mixture was stirred at 150° C. under microwave irradiation for 30 min. The reaction mixture was diluted with AcOEt and water was added. The layers were separated and the org. layer was dried over MgSO4, filtered over celite, and concentrated in vacuo. The residue was purified by flashmaster (column: 10 g, flow: 15 mL/min, 25 fractions of 15 mL, Heptane+5% AcOEt to Heptane+40% AcOEt) to yield the title compound as a beige solid.

reactant | 5-bromo-8-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 0.31 mmol, 123 mg, 1.0 eq. | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)Br)O | C17H16BrNO3
reactant | DMAC | 0.62 mL | CC(=O)N(C)C | C4H9NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
catalyst | zinc cyanide | 0.16 mmol, 18 mg, 0.5 eq. | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 7 μmol, 6.2 mg, 0.02 eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis-(diphenylphosphino)-ferrocene | 8 μmol, 4.7 mg, 0.03 eq. | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 5-cyano-8-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)C#N)O | C18H16N2O3
